US08609727B2
tert-Butyl 4-(2-bromoethyl)benzoate
7.16 g (21.59 mmol) of tetrabromomethane and 5.66 g (21.59 mmol) of triphenylphosphine are dissolved in 70 ml of THF with exclusion of oxygen and stirred at room temperature for 30 minutes. Then 3.2 g (14.4 mmol) of tert-butyl 4-(2-hydroxyethyl)benzoate, dissolved in 30 ml of THF, are added dropwise, and the reaction mixture is stirred at room temperature for 12 hours. After conversion is complete, the mixture is evaporated to dryness and the resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). 3.9 g (13.7 mmol, 87% yield) of the title compound are obtained as a colourless oil.

reactant | tetrabromomethane | 21.59 mmol, 7.16 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 21.59 mmol, 5.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 4-(2-hydroxyethyl)benzoate | 14.4 mmol, 3.2 g | OCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H18O3
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | oxygen | O=O | O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-bromoethyl)benzoate | 13.7 mmol, 3.9 g, 87% yield | BrCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H17BrO2
